US07973168B2
Synthesis of 2-(2-(benzo[d]oxazole-2-yl)naphthalene-6-yl)benzo[d]oxazole polyphosphoric acid (125 cm3) was heated at 70° C. for 1 hour while agitating. 0.1 mol of naphthalene-2,6-dicarboxylic acid was added and the resulting mixture was stirred for 15 minutes. 0.2 mol of 2-aminophenol was added in a dropwise fashion for 10 minutes. The temperature of the mixture was increased to 150° C. and then this temperature was maintained for 2 hours. The mixture was stirred to cool down to a room temperature. The resulting reaction mixture was stirred for 1 hour with ice water (1.5 dm3), and neutralized with a diluted sodium carbonate hydrate solution. Then it was filtered and dried in an oven for 1 day. The solid was crystallized from dimethylformamide (200 cm3). The final filtered product was rinsed with methanol (100 cm3) and then dried in a 100° C. vacuum oven. As a result, colorless needle-shaped crystalline 2-(2-(benzo[d]oxazole-2-yl)naphthalene-6-yl) benzo[d]oxazole was produced at a yield of 75%.

reactant | naphthalene-2,6-dicarboxylic acid | 0.1 mol | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | 2-aminophenol | 0.2 mol | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium carbonate hydrate | O.C([O-])([O-])=O.[Na+].[Na+]
product | 2-(2-(benzo[d]oxazole-2-yl)naphthalene-6-yl) benzo[d]oxazole | yield of 75% | O1C(=NC2=C1C=CC=C2)C2=CC1=CC=C(C=C1C=C2)C=2OC1=C(N2)C=CC=C1 | C24H14N2O2
